US09315507B2
2-(4-(Adamantan-1-yl)-2-methylphenoxy)-1-morpholinoethanone (I-6)
The title compound was prepared from 2-(4-(adamantan-1-yl)-2-methylphenoxy)acetic acid (0.2 g, 0.66 mmol), prepared from the step 4 of the example 5, and morpholine (0.058 g, 0.66 mmol) according to the example 1, which was given 2-(4-(adamantan-1-yl)-2-methylphenoxy)-1-morpholinoethanone as a white solid (0.228 g, 92.7% yield).

reactant | 2-(4-(adamantan-1-yl)-2-methylphenoxy)acetic acid | 0.66 mmol, 0.2 g | C12(CC3CC(CC(C1)C3)C2)C2=CC(=C(OCC(=O)O)C=C2)C | C19H24O3
reactant | morpholine | 0.66 mmol, 0.058 g | N1CCOCC1 | C4H9NO
product | 2-(4-(adamantan-1-yl)-2-methylphenoxy)-1-morpholinoethanone | 0.228 g, 92.7% yield | C12(CC3CC(CC(C1)C3)C2)C2=CC(=C(OCC(=O)N3CCOCC3)C=C2)C | C23H31NO3
